US05599852
LIQUID POLYMERS OF ε-CAPROLACTONE/TRIMETHYLENE CARBONATE AT 50/50 INITIAL MOLE COMPOSITION
A flame dried, 250 mL, round bottom single neck flask was charged with 57.1 grams (0.50 mole) of ε-caprolactone, 51.0 grams (0.50 mole) of trimethylene carbonate, 4.4 mL (60 mmol) of propylene glycol (USP), and 0.10 mL (34 μmol) of a 0.33M solution of stannous octoate in toluene. The flask was fitted with a flame dried mechanical stirrer. The flask was purged with nitrogen three times before venting with nitrogen. The reaction mixture was heated to 160° C. and maintained at this temperature for about 18-20 hours. The copolymer was dried under vacuum (0.1 mmHg) at 80° C. for about 16 hours to remove any unreacted monomer. The copolymer had an inherent viscosity of 0.20 dL/g in HFIP at 25° C. The copolymer was a viscous liquid at room temperature.

reactant | ε-caprolactone | 0.50 mole, 57.1 grams | C1(CCCCCO1)=O | C6H10O2
reactant | trimethylene carbonate | 0.50 mole, 51.0 grams | C1(OCCCO1)=O | C4H6O3
reactant | propylene glycol | 60 mmol, 4.4 mL | C(C(C)O)O | C3H8O2
reactant | stannous octoate | CCCCC(CC)C(=O)[O-].CCCCC(CC)C(=O)[O-].[Sn+2]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | ε-CAPROLACTONE TRIMETHYLENE CARBONATE | C1(CCCCCO1)=O.C1(OCCCO1)=O | InChI=1S/C6H10O2.C4H6O3/c7-6-4-2-1-3-5-8-6;5-4-6-2-1-3-7-4/h1-5H2;1-3H2
